US05994368
A mixture of 8-[3-[N-(bromoacetylglycyl)-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylquinoline (90 mg), 4-nitro-1-(1-piperazinyl)benzene (48 mg) and potassium carbonate (94 mg) in dimethylformamide (2 ml) was stirred at ambient temperature for 1 hour and water added thereto. The mixture was extracted with ethyl acetate twice, and the combined organic layer was washed with water, dried and concentrated. The residue was purified by preparative thin-layer chromatography (10% methanol in dichloromethane) to give 8-[2,6-dichloro-3-[N-methyl-N-[2-[4-(4-nitrophenyl)piperazin-1-yl]acetylglycyl]amino]benzyloxy]-2-methylquinoline (44 mg).

reactant | 8-[3-[N-(bromoacetylglycyl)-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylquinoline | 90 mg | BrCC(=O)NCC(=O)N(C)C=1C(=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC1)Cl)Cl | C22H20BrCl2N3O3
reactant | 4-nitro-1-(1-piperazinyl)benzene | 48 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | potassium carbonate | 94 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 8-[2,6-dichloro-3-[N-methyl-N-[2-[4-(4-nitrophenyl)piperazin-1-yl]acetylglycyl]amino]benzyloxy]-2-methylquinoline | 44 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C(CNC(CN1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])=O)=O)C)Cl | C32H32Cl2N6O5
